US08497278B2
6-Methyl-3-phenylsulfanylmethyl-2-p-tolyl-imidazo[1,2-a]pyridine (163)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and benzenethiol. m/e+ 345 for C22H21N2 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 7.81 (s, 1H), 7.59 (d, J=8.0 Hz, 2H), 7.54 (d, J=9.1 Hz, 1H), 7.35 (d, J=1.8 Hz, 2H), 7.32 (m, 5H), 7.07 (d, J=9.1 Hz, 1H), 4.54 (s, 2H), 2.39 (s, 3H), 2.34 (s, 3H) ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
product | 6-Methyl-3-phenylsulfanylmethyl-2-p-tolyl-imidazo[1,2-a]pyridine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CSC2=CC=CC=C2 | C22H20N2S
